US09108921B2
Step A: methyl 2-(difluoromethoxy)-4-nitrobenzoate (29B)
A mixture of methyl 2-hydroxy-4-nitrobenzoate (1.1 g, 5.6 mmol), sodium 2-chloro-2,2-difluoroacetate (1.0 g, 6.6 mmol) and Na2CO3 (710 mg, 6.7 mmol) in DMF (10 mL) was stirred at 100° C. overnight. After cooling to rt, the mixture was partitioned between water and EtOAc. The organic layer was separated and washed with twice with water, then brine, dried over Na2SO4 and concentrated, and purified by a standard method to give the title product (330 mg). 1H NMR (CHLOROFORM-d) δ: 8.15-8.19 (m, 1H), 8.13 (s, 1H), 8.06 (d, J=8.6 Hz, 1H), 6.68 (s, 1H), 3.98 (t, J=72.8 Hz, 1H).

reactant | methyl 2-hydroxy-4-nitrobenzoate | 5.6 mmol, 1.1 g | OC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H7NO5
reactant | sodium 2-chloro-2,2-difluoroacetate | 6.6 mmol, 1.0 g | ClC(C(=O)[O-])(F)F.[Na+]
reactant | Na2CO3 | 6.7 mmol, 710 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-(difluoromethoxy)-4-nitrobenzoate | 330 mg | FC(OC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-])F | C9H7F2NO5
